US06982348B2
A solution of 1-bromo-4-methylnaphthaleneacetate (14.98 g, 67.75 mmol), N-bromosuccinimide (12.1 g, 67.8 mmol) and 2,2′-azobis(isobutyronitrile) (50 mg) in carbon tetrachloride (50 ml) was heated under reflux for 0.5 hr. After cooling the reaction solution to room temperature, white precipitate was filtered off, and the precipitate was washed with diethyl ether. The solvent of the collected filtrate was evaporated under reduced pressure to give a crude product of 1-bromo-4-(bromomethyl)naphthalene as a pale-yellow liquid. The obtained liquid was dissolved in N,N-dimethylformamide (30 ml), sodium acetate (11.1 g, 136 mmol) was added and the mixture was stirred at 60° C. for 6 hrs. After cooling to room temperature, the reaction solution was diluted with water and extracted twice with ethyl acetate. The collected organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained crude product was purified by silica gel column chromatography (hexane/ethyl acetate=20/1-6/1) to give the objective substance.

reactant | 1-bromo-4-methylnaphthaleneacetate | 67.75 mmol, 14.98 g | BrC1(CC=C(C2=CC=CC=C12)C)CC(=O)[O-]
reactant | N-bromosuccinimide | 67.8 mmol, 12.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(isobutyronitrile) | 50 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-bromo-4-(bromomethyl)naphthalene | BrC1=CC=C(C2=CC=CC=C12)CBr | C11H8Br2
